US06172057B2
2-(4-Methoxy-phenylsulfanyl)-heptanoic acid ethyl ester (13.8 g, 98%) was prepared according to the general method as outlined in example 1 starting from ethyl 2-bromoheptanoate (11 g, 47 mmol) and 4-methoxythiophenol (6 g, 42.8 mmol), as a yellow oil; MS: 297.2 (M+H)+.

reactant | ethyl 2-bromoheptanoate | 47 mmol, 11 g | BrC(C(=O)OCC)CCCCC | C9H17BrO2
reactant | 4-methoxythiophenol | 42.8 mmol, 6 g | COC1=CC=C(C=C1)S | C7H8OS
product | 2-(4-Methoxy-phenylsulfanyl)-heptanoic acid ethyl ester | 13.8 g, 98% | C(C)OC(C(CCCCC)SC1=CC=C(C=C1)OC)=O | C16H24O3S
